US03978071
A mixture of 48 g of ethyl 4-(chloroacetyl)phenylacetate, 100 ml of ethanol and 38 g of 2-aminopyrimidine is heated under reflux for 3 hours. The ethanol is distilled off under reduced pressure, and water is added to the residue. The mixture is extracted with ethyl acetate, and the extract is washed with water, dried and concentrated to give a brown oil. To the oil is added benzene, and the crystalline precipitate is filtered off and recrystallized from ethyl acetate to give 26 g of ethyl 4-(imidazo[1,2-a]-pyrimidine-2-yl)phenylacetate as pale brown crystals melting at 155°-158°C.

reactant | ethyl 4-(chloroacetyl)phenylacetate | 48 g | ClCC(=O)C1=CC=C(C=C1)CC(=O)OCC | C12H13ClO3
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | 2-aminopyrimidine | 38 g | NC1=NC=CC=N1 | C4H5N3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | ethyl 4-(imidazo[1,2-a]-pyrimidine-2-yl)phenylacetate | 26 g | N=1C(=CN2C1N=CC=C2)C2=CC=C(C=C2)CC(=O)OCC | C16H15N3O2
